US04309426
11.17 g (0.05 mole) of 2,4-dichlorophenacyl chloride and 4.36 g (0.05 mole) of thiosemicarbazide are stirred and heated in 250 ml of methanol at reflux (65° C.) for 30 minutes. The resultant suspension is allowed to cool and is filtered to yield a first crop of 4.56 g of 5-(2,4-dichlorophenyl)-6H-1,3,4-thiadiazin-2-amine hydrochloride. The reaction mixture is then diluted with ethyl acetate and concentrated on a steam bath further yielding 6.2 g of the same compound. The two products are added together and recrystallized from methanol/ethyl acetate. m.p. 170°-172° C.

reactant | 2,4-dichlorophenacyl chloride | 0.05 mole, 11.17 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | thiosemicarbazide | 0.05 mole, 4.36 g | NNC(=S)N | CH5N3S
solvent | methanol | 250 ml | CO | CH4O
product | 5-(2,4-dichlorophenyl)-6H-1,3,4-thiadiazin-2-amine hydrochloride | 4.56 g | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)N | InChI=1S/C9H7Cl2N3S.ClH/c10-5-1-2-6(7(11)3-5)8-4-15-9(12)14-13-8;/h1-3H,4H2,(H2,12,14);1H
